US06525036B2
A solution comprised of the ethyl 4-methyl-2-(2-phenylthiazol-4-yl)pentanoate in methanol (5 mL) was treated with sodium hydroxide (0.1 gm, 2 mmol). The mixture was stirred for 4 hours, basified with 0.1 M sodium hydroxide solution, washed with ethyl acetate (10 mL), acidified and extracted with ethyl acetate (50 mL). The extract was washed with water, dried (MgSO4) and concentrated. Product was purified from the residue by flash chromatography on silica gel (60° A) with 33% ethyl acetate in hexane as an eluent to provide 4-methyl-2-(2-phenylthiazol-4-yl)pentanoic acid (200 mg, 1.44 mmol). Rf 0.41. 1H NMR (DMSO-d6): 1.01 (m, 6H), 1.61-1.79 (m, 3H), 3.63 (m, 1H), 7.04 (d, 1H), 7.22-7.34 (m, 5H). LCMS: 276.1 (M+H+).

reactant | ethyl 4-methyl-2-(2-phenylthiazol-4-yl)pentanoate | CC(CC(C(=O)OCC)C=1N=C(SC1)C1=CC=CC=C1)C | C17H21NO2S
reactant | sodium hydroxide | 2 mmol, 0.1 gm | [OH-].[Na+]
reactant | sodium hydroxide | 0.1 M | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 4-methyl-2-(2-phenylthiazol-4-yl)pentanoic acid | 1.44 mmol, 200 mg | CC(CC(C(=O)O)C=1N=C(SC1)C1=CC=CC=C1)C | C15H17NO2S
